US04482762
A Grignard reagent, prepared by reacting 11.4 g (0.47 g atom) of magnesium in 100 ml of ether and 77.6 g (0.47 mol) of 1-bromo-2-ethylbutane in 400 ml of ether, is reacted with 38.4 g (0.39 mol) of 2-methyl-2-pentenal in a manner analogous to Example 5. Fractional distillation of the crude product (79.8 g) over a 15 cm Widmer column gives 29.9 g (40.3%) of olfactorily good 4-methyl-7-ethyl-3-nonen-5-ol of boiling point 105°-106° C./12 mm Hg.

reactant | magnesium | 11.4 g | [Mg] | Mg
reactant | 1-bromo-2-ethylbutane | 0.47 mol, 77.6 g | BrCC(CC)CC | C6H13Br
reactant | 2-methyl-2-pentenal | 0.39 mol, 38.4 g | CC(C=O)=CCC | C6H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
product | 4-methyl-7-ethyl-3-nonen-5-ol | CC(=CCC)C(CC(CC)CC)O | C12H24O
